US06815456B2
Preparation of t-Butyl 3-(1H-Indol-4-yloxy)-1-pyrrolidinecarboxylate
A solution of 4-hydroxyindole (2.66 g, 20.0 mmol), t-butyl 3-hydroxy-1-pyrrolidinecarboxylate (7.5 g, 40.0 mmol) and triphenylphosphine (φ3P) (10.5 g 40.0 mmol) in THF is treated with diethyl azodicarboxylate (DEAC)(6.3 ml, 40.0 mmol) under nitrogen at room temperature, stirred for 2 h at room temperature and concentrated in vacuo. The resultant residue is stirred under ether, cooled and filtered. The filtercake is washed with cold ether. The filtrates are combined and concentrated in vacuo. The residue is purified by flash chromatography (silica gel, EtOAc/hexane: 2/80) to give the title compound as a white solid, 3.98 g, mp 164-165° C., identified by NMR and mass spectral analyses.

reactant | 4-hydroxyindole | 20.0 mmol, 2.66 g | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | t-butyl 3-hydroxy-1-pyrrolidinecarboxylate | 40.0 mmol, 7.5 g | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triphenylphosphine | 40.0 mmol, 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 40.0 mmol, 6.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | t-Butyl 3-(1H-Indol-4-yloxy)-1-pyrrolidinecarboxylate | N1C=CC2=C(C=CC=C12)OC1CN(CC1)C(=O)OC(C)(C)C | C17H22N2O3
